US04200628
To a solution of 452 mg of 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetic acid in 5 ml of methanol is added a solution of diazomethane in ether. After the excess amount of diazomethane is decomposed with acetic acid, the mixture is evaporated to dryness under reduced pressure. The residue is dissolved in ether. The resulting solution is washed with 10% aqueous sodium sulfate and water, dried over sodium sulfate and evaporated under reduced pressure to yield 468 mg of methyl 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetate as a mixture of erythro and threo.

reactant | 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetic acid | 452 mg | OC(C(=O)O)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H24N2O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | methyl 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetate | 468 mg | OC(C(=O)OC)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H26N2O3
